US08017602B2
Step i) N-Cycloheptyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide
The subtitled compound (1.2 g) was prepared from 3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid [Example 2a, Step i)] and N-(2,2-dimethoxyethyl)cycloheptanamine [Preparation 6], using a similar method to that described in Preparation 3 Step iii) and the elution gradient used was 50-80% ethyl acetate in isohexane. 1H NMR (400 MHz, DMSO-d6) δ 8.10 and 8.09 (2×s, 1H), 7.82 (s, 1H), 7.44-7.40 (m, 1H), 7.37 (d, J=7.7 Hz, 1H), 7.26-7.21 (m, 1H), 7.06-7.02 (m, 1H), 4.51 and 4.39 (2×t, J=5.0 Hz, 1H), 3.85 (s, 3H), 3.86-3.66 (m, 1H), 3.68-3.56 (m, 4H), 3.31 (s, 3H), 3.30 and 3.16 (2×d, J=5.0 Hz, 2H), 3.25 (s, 3H), 2.81-2.76 (m, 2H), 2.61-2.51 (m, 2H), 1.79-1.23 (m, 12H); a ˜1:1 mixture of rotamers is observed.

reactant | 3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanoic acid | CN1N=CC(=C1)C=1C=C(CCOCCC(=O)O)C=CC1 | C15H18N2O3
reactant | N-(2,2-dimethoxyethyl)cycloheptanamine | COC(CNC1CCCCCC1)OC | C11H23NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | isohexane | CCCC(C)C | C6H14
product | N-Cycloheptyl-N-(2,2-dimethoxyethyl)-3-(3-(1-methyl-1H-pyrazol-4-yl)phenethoxy)propanamide | 1.2 g | C1(CCCCCC1)N(C(CCOCCC1=CC(=CC=C1)C=1C=NN(C1)C)=O)CC(OC)OC | C26H39N3O4
